US08304446B2
N-[1-{[3-(Aminomethyl)phenyl]methyl}-4-(difluoromethyl)-1H-indazol-3-yl]-5-chloro-N-[(5-chloro-2-thienyl)sulfonyl]-2-thiophenesulfonamide
1,1-Dimethylethyl[(3-{[3-{bis[(5-chloro-2-thienyl)sulfonyl]amino}-4-(difluoromethyl)-1H-indazol-1-yl]methyl}phenyl)methyl]carbamate (for a preparation see Intermediate 69) (60 mg, 0.079 mmol) was dissolved in dichloromethane (0.5 mL) and trifluoroacetic acid (0.125 mL) was added to the solution. and stirred for 1 h under nitrogen. The solution was concentrated under a stream of nitrogen and the off-white residue was dissolved in methanol and loaded onto a methanol conditioned sulphonic acid (SCX-2) cartridge (10 g). The cartridge was washed well with methanol, followed by 2M ammonia in methanol. Evaporation of the solvent from the ammoniacal fractions gave the title compound (26 mg, 54%) as a white solid. LCMS (System A) RT=1.11 min, ES+ve m/z 663/665 (M+H)+.

reactant | 1,1-Dimethylethyl[(3-{[3-{bis[(5-chloro-2-thienyl)sulfonyl]amino}-4-(difluoromethyl)-1H-indazol-1-yl]methyl}phenyl)methyl]carbamate | CC(C)(C)N(C([O-])=O)CC1=CC(=CC=C1)CN1N=C(C2=C(C=CC=C12)C(F)F)N(S(=O)(=O)C=1SC(=CC1)Cl)S(=O)(=O)C=1SC(=CC1)Cl
reactant | trifluoroacetic acid | 0.125 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 0.5 mL | ClCCl | CH2Cl2
product | N-[1-{[3-(Aminomethyl)phenyl]methyl}-4-(difluoromethyl)-1H-indazol-3-yl]-5-chloro-N-[(5-chloro-2-thienyl)sulfonyl]-2-thiophenesulfonamide | 26 mg, 54% | NCC=1C=C(C=CC1)CN1N=C(C2=C(C=CC=C12)C(F)F)N(S(=O)(=O)C=1SC(=CC1)Cl)S(=O)(=O)C=1SC(=CC1)Cl | C24H18Cl2F2N4O4S4
